US07781436B2
[6-Chloro-1-(2-dimethylamino-ethyl)-1H-indol-3-yl]-[4-(2,3-dihydro-benzofuran-7-yl)-piperidin-1-yl]-methanone
Analogous to general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2,3-dihydro-benzofuran-7-yl)-piperidin-1-yl]-methanone (prepared herein) with (commercially available) (2-chloro-ethyl)-dimethyl-amine gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2,3-dihydro-benzofuran-7-yl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC(CC1)C1=CC=CC=2CCOC21 | C22H21ClN2O2
reactant | (2-chloro-ethyl)-dimethyl-amine | ClCCN(C)C | C4H10ClN
product | [6-Chloro-1-(2-dimethylamino-ethyl)-1H-indol-3-yl]-[4-(2,3-dihydro-benzofuran-7-yl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CN(C2=C1)CCN(C)C)C(=O)N1CCC(CC1)C1=CC=CC=2CCOC21 | C26H30ClN3O2
